US08217032B2
6-(2,5-Difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-ol hydrochloride
Dissolve 1-(2-{4-[2-(2,5-difluoro-phenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine in 20 mL acetonitrile and chill in an ice bath. Add 1.5 mL of boron tribromide with swirling and allow to warm to room temperature. Pour this mixture into a two-phase mixture of saturated sodium bicarbonate solution and a 3/1 mixture of chloroform/isopropanol. Wash the organic layer with water and dry over 3 Å molecular sieves. Concentrate the organic layer and purify on a silica gel column, eluting with a 0-10% methanol/methylene chloride gradient. Evaporate the solvent and convert the compound to the salt with HCl to give 369 mg (82%) of the title compound: 1H-NMR (CDCl3, 300 MHz) δ7.77 (d, J=8.7 Hz, 1H); 7.61 (d, J=8.1 Hz, 1H); 7.28-7.25 (m, 1H); 7.11-6.94 (m, 4H); 6.89-6.83 (m, 1H); 6.74 (d, J=8.7 Hz, 2H); 6.57-6.54 (m, 2H); 4.31-4.10 (d, 2H); 4.04 (t, J=6.0 Hz, 2H); 2.80-2.80 (m, 2H); 2.59-2.59 (m, 4H); 1.68-1.65 (m, 4H); 1.48-1.46 (m, 2H).

reactant | 1-(2-{4-[2-(2,5-difluoro-phenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine | FC1=C(C=C(C=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)CC1=CC=C(OCCN2CCCCC2)C=C1 | C31H31F2NO2
reactant | boron tribromide | 1.5 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 6-(2,5-Difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-ol hydrochloride | 369 mg, 82% | Cl.FC1=C(C=C(C=C1)F)C=1C(=C2C=CC(=CC2=CC1)O)CC1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H29F2NO2.ClH/c31-23-7-13-30(32)29(20-23)27-11-6-22-19-24(34)8-12-26(22)28(27)18-21-4-9-25(10-5-21)35-17-16-33-14-2-1-3-15-33;/h4-13,19-20,34H,1-3,14-18H2;1H
